US09216999B2
Benzyl 4-[methoxy(methyl)carbamoyl]piperidine-1-carboxylate
Benzyl chloroformate (1.64 mL, 11.6 mmol) was gradually added dropwise to piperidine-4-carboxylic acid (1.00 g, 7.74 mmol) and sodium carbonate (1.64 g, 15.5 mmol) in water (20 mL) under cooling with ice, and the resulting reaction mixture was stirred for 2 hours. After addition of 1 M aqueous sodium hydroxide, the reaction mixture was allowed to separate by adding ethyl acetate. The resulting aqueous layer was adjusted to pH 4 with 1 M hydrochloric acid and extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to give a colorless oil. The oil was dissolved in chloroform (30 mL) and stirred with N,O-dimethylhydroxylamine hydrochloride (1.50 g, 15.4 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (3.00 g, 15.4 mmol), 1-hydroxybenzotriazole (2.00 g, 15.4 mmol) and triethylamine (3.2 mL, 23.1 mmol) at room temperature for 3 days. After addition of water and saturated aqueous ammonium chloride, the reaction mixture was extracted with chloroform, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1 (v/v)) to give the title compound as a colorless oil (1.57 g, yield 66%).

reactant | Benzyl chloroformate | 11.6 mmol, 1.64 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | piperidine-4-carboxylic acid | 7.74 mmol, 1.00 g | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | sodium carbonate | 15.5 mmol, 1.64 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | N,O-dimethylhydroxylamine hydrochloride | 15.4 mmol, 1.50 g | Cl.CNOC
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 15.4 mmol, 3.00 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 15.4 mmol, 2.00 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 23.1 mmol, 3.2 mL | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | water | 20 mL | O | H2O
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | Benzyl 4-[methoxy(methyl)carbamoyl]piperidine-1-carboxylate | 1.57 g, yield 66% | CON(C(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)C | C16H22N2O4
